US09428528B2
Step 2 Preparation of ((N-[(1S,2R)-2-(4-Azido-phenyl)-1-fluoromethyl-2-hydroxy-ethyl]-2,2-dichloro-acetamide
To the stirred solution of (1R,2R)-2-Amino-1-(4-azido-phenyl)-3-fluoro-propan-1-ol (600 mg, 2.83 mmol) in methanol (6.5 mL) is added triethyl amine (0.57 g, 5.64 mmol) and ethyl dichloroacetate (0.88 g, 5.60 mmol). Resulting reaction mixture is stirred under nitrogen at room temperature for 16 hours. Solvent is evaporated in vacuo to get the crude material purified by column chromatography eluting in 0.5% methanol in dichloromethane to afford the title compound (150 mg). 1H-NMR (400 MHz, DMSO-d6) δ: 4.40-4.41 (m, 1H), 4.24-4.26 (m, 0.5H), 4.36-4.38 (m, 0.5H), 4.52-4.54 (m, 0.5H), 4.64-4.66 (m, 0.5H), 4.84 (t, 1H, J=3.64 Hz), 5.96 (d, 1H, J=4.24 Hz), 6.49 (s, 1H), 7.05 (d, 2H, J=8.48 Hz), 7.38 (d, 2H, J=8.44 Hz), 8.58 (d, 1H, J=8.98 Hz). LC-Ms (m/z): [M−H]=318.8.

reactant | (1R,2R)-2-Amino-1-(4-azido-phenyl)-3-fluoro-propan-1-ol | 2.83 mmol, 600 mg | N[C@H]([C@H](O)C1=CC=C(C=C1)N=[N+]=[N-])CF | C9H11FN4O
reactant | triethyl amine | 5.64 mmol, 0.57 g | C(C)N(CC)CC | C6H15N
reactant | ethyl dichloroacetate | 5.60 mmol, 0.88 g | ClC(C(=O)OCC)Cl | C4H6Cl2O2
solvent | methanol | 6.5 mL | CO | CH4O
product | N-[(1S,2R)-2-(4-Azido-phenyl)-1-fluoromethyl-2-hydroxy-ethyl]-2,2-dichloro-acetamide | 150 mg | N(=[N+]=[N-])C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C11H11Cl2FN4O2
